US06071920
1-[N-(2-trifluoromethoxyphenyl)-2-aminoethyl]-4-(2-methoxyphenyl)piperazine
A solution of 2.09 g of 2-trifluoromethoxyaniline and 3.15 g of 1-(2-chloroethyl)-4-(2-methoxyphenyl)piperazine in 20 mL of n-butanol was stirred at 100° C. for 2 hrs. The mixture was then cooled, diluted with H2O, alkalinized with 2 N NaOH and extracted with CHCl3. The organic phase was dried on anhydrous Na2SO4, evaporated until dry and the crude purified via flash chromatography (EtOAc-petrolium ether 3:7) and subsequently crystallized from EtOH giving 0.55 g (12%) of the title compound. Melting point: 69.5-71° C.

reactant | 2-trifluoromethoxyaniline | 2.09 g | FC(OC1=C(N)C=CC=C1)(F)F | C7H6F3NO
reactant | 1-(2-chloroethyl)-4-(2-methoxyphenyl)piperazine | 3.15 g | ClCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H19ClN2O
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | n-butanol | 20 mL | C(CCC)O | C4H10O
solvent | H2O | O | H2O
product | 1-[N-(2-trifluoromethoxyphenyl)-2-aminoethyl]-4-(2-methoxyphenyl)piperazine | FC(OC1=C(C=CC=C1)NCCN1CCN(CC1)C1=C(C=CC=C1)OC)(F)F | C20H24F3N3O2
